US07482336B2
Step E: Triisopropyl{[4-(2,4,5-trifluorophenyl)cyclohex-1-en-1-yl]oxy}silane
A three-neck flask (1 L) containing a stirred solution of 4-(2,4,5-trifluorophenyl)cyclohexanone (15.8 g) in dichloromethane (160 mL) under a nitrogen atmosphere was cooled to 0° C. and then treated with triethylamine (22 mL) followed by triisopropylsilyl trifluoromethanesulfonate (25.4 g) while maintaining the temperature below 5° C. The solution was stirred at 0° for 30 min and then allowed to rise to ambient temperature over a period of 0.5 h. It was then treated with saturated aqueous ammonium chloride solution. The organic layer was separated, dried over anhydrous magnesium sulfate and evaporated. The crude product was chromatographed (silica gel, 3% ether in hexane) to yield the title compound.

reactant | 4-(2,4,5-trifluorophenyl)cyclohexanone | 15.8 g | FC1=C(C=C(C(=C1)F)F)C1CCC(CC1)=O | C12H11F3O
reactant | triethylamine | 22 mL | C(C)N(CC)CC | C6H15N
reactant | triisopropylsilyl trifluoromethanesulfonate | 25.4 g | FC(S(=O)(=O)O[Si](C(C)C)(C(C)C)C(C)C)(F)F | C10H21F3O3SSi
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | dichloromethane | 160 mL | ClCCl | CH2Cl2
product | Triisopropyl{[4-(2,4,5-trifluorophenyl)cyclohex-1-en-1-yl]oxy}silane | C(C)(C)[Si](OC1=CCC(CC1)C1=C(C=C(C(=C1)F)F)F)(C(C)C)C(C)C | C21H31F3OSi
